US07579370B2
A solution of Pd(OAc)2 (64 mg, 0.29 mmol), triphenylphosphine (TPP) (0.30 g, 1.1 mmol) and isopropanol (3.6 mL) in acetonitrile (7.4 mL) was added to a solid mixture of 2-boronic acid-5-furaldehyde (0.80 g, 5.7 mmol), diethylbenzylphosphonate (1.5 g, 6.3 mmol) and K3PO4 (1.8 g, 8.6 mmol). The reaction mixture was flushed with a stream of nitrogen and heated to 80° C. overnight. The mixture was then cooled to room temperature and filtered through a plug of silica gel with ethyl acetate. The organic solution was then concentrated in vacuo and the resultant solid was chromatographed over silica gel to give 5-benzyl-furan-2-carbaldehyde as a brown solid (0.37 g, 65%). 1H NMR (400 MHz, CDCl3) δ ppm 9.56 (s, 1 H) 7.29-7.38 (m, 3 H) 7.24-7.28 (m, 2 H) 7.17 (d, J=3.5 Hz, 1 H) 6.19 (d, J=3.6 Hz, 1 H) 4.07 (s, 2 H).

reactant | triphenylphosphine | 1.1 mmol, 0.30 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | isopropanol | 3.6 mL | C(C)(C)O | C3H8O
reactant | diethylbenzylphosphonate | 6.3 mmol, 1.5 g | C(C)OP(OCC)(=O)CC1=CC=CC=C1 | C11H17O3P
reactant | K3PO4 | 8.6 mmol, 1.8 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | acetonitrile | 7.4 mL | C(C)#N | C2H3N
catalyst | Pd(OAc)2 | 0.29 mmol, 64 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 5-benzyl-furan-2-carbaldehyde | 0.37 g, 65% | C(C1=CC=CC=C1)C1=CC=C(O1)C=O | C12H10O2
